US07589232B2
Step b) Formation of ethyl (2E)-3-{4-[(4-dec-1-ynylbenzyl)(3-phenylpropanoyl)-amino]phenyl}acrylate
The title compound was prepared following the procedure E using of ethyl (2E)-3-{4-[(4-dec-1-ynylbenzyl)amino]phenyl}acrylate and 3-phenylpropanoyl chloride (58%). M+ (ESI): 560.6. HPLC, Rt: 6.4 min (purity: 98.7%).

reactant | ethyl (2E)-3-{4-[(4-dec-1-ynylbenzyl)amino]phenyl}acrylate | C(#CCCCCCCCC)C1=CC=C(CNC2=CC=C(C=C2)/C=C/C(=O)OCC)C=C1 | C28H35NO2
reactant | 3-phenylpropanoyl chloride | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
product | ethyl (2E)-3-{4-[(4-dec-1-ynylbenzyl)(3-phenylpropanoyl)-amino]phenyl}acrylate | C(#CCCCCCCCC)C1=CC=C(CN(C2=CC=C(C=C2)/C=C/C(=O)OCC)C(CCC2=CC=CC=C2)=O)C=C1 | C37H43NO3
